US06100283
3-Nitrophthalic anhydride (10.0 g, 50 mmol) was added in portions over 20 minutes to concentrated aqueous ammonia solution (15 ml), and the mixture was stirred at 300° C. for a further 30 minutes. The crystalline mass of ammonium phthalamate, deposited upon cooling the pale yellow solution, was collected and redissolved in a minimum amount of warm water. Concentrated hydrochloric acid (4.5 ml) was added dropwise, with stirring, and the resulting paste was washed with water, and dried in vacuo to give 3-nitrophthalamic acid as a fine white powder. (9.01 g, 83%), m.p. 217° C. Found: C, 45.76; H, 2.79; N, 13.21. C8H6N2O5 requires C, 45.71; H, 2.86; N, 13.33%; vmax /cm-1 3466.52, 3321.84, 1668.64, 1604.98, and 1525.89; δH (d6 -DMSO, 200 MHz) 7.75 (1H, br s, CONH), 7.8 (1H, t, Ar-5H), 8.16 (1H, brs, CONH), 8.2 (1H, d, Ar-6H), 8.3 (1H, d, Ar-4H); δC (d6 -DMSO) 127.32, 130.06, 132.28, 133.49, 134.78, 147.71, 166.25, and 166.60; m/z (EI) 192 (M+ -1), 177, 149, 103, 75.

reactant | 3-Nitrophthalic anhydride | 50 mmol, 10.0 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | ammonia | 15 ml | N | H3N
reactant | ammonium phthalamate | C(C=1C(C(=O)N)=CC=CC1)(=O)[O-].[NH4+]
product | 3-nitrophthalamic acid | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)N | C8H6N2O5
